US07157455B2
The product of the reaction of 2-iodophenol (Aldrich) and ethyl iodide in hot acetone containing potassium carbonate was treated with n-butyl lithium as described in Example 2A and subsequently reacted with 4-amino-2-ethylsulfanyl-pyrimidine-5-carboxylic acid methoxy-methyl-amide, Example 1, using the procedure of Example 47 to give (4-amino-2-ethylsulfanyl-pyrimidin-5-yl)-(2-ethoxy-phenyl)-methanone as a white solid. MS (M+H)+, 304

reactant | 2-iodophenol | IC1=C(C=CC=C1)O | C6H5IO
reactant | ethyl iodide | C(C)I | C2H5I
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | n-butyl lithium | C(CCC)[Li]
reactant | 4-amino-2-ethylsulfanyl-pyrimidine-5-carboxylic acid methoxy-methyl-amide | CON(C(=O)C=1C(=NC(=NC1)SCC)N)C | C9H14N4O2S
solvent | acetone | CC(=O)C | C3H6O
product | (4-amino-2-ethylsulfanyl-pyrimidin-5-yl)-(2-ethoxy-phenyl)-methanone | NC1=NC(=NC=C1C(=O)C1=C(C=CC=C1)OCC)SCC | C15H17N3O2S
